US06180622B2
2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate (20.4 mg) is added to a solution of 32.4 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, described in Example 31-a), in 0.5 ml of dry dichloroethane, and the mixture is stirred in an argon atmosphere at room temperature for 2 hr. The excess reagent is removed by evaporation under reduced pressure to give allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-[2-(t-butyldimethylsilyloxy)ethyl]-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate as a brown oil. Acetic acid (0.0033 ml) and 0.056 ml of a 1 M tetra-n-butylammonium fluoride/THF solution are added to a solution of this compound in 0.5 ml of anhydrous THF, and the mixture is stirred in an argon atmosphere at room temperature for one hr. Dry ethanol (0.5 ml) is added thereto. Triphenylphosphine (5.8 mg), 0.012 ml of morpholine, and 3.2 mg of tetrakis(triphenylphosphine)palladium(0) are successively added to the mixture, and the mixture is stirred in an argon atmosphere at room temperature for one hr. THF (10 ml) is added thereto, and the resultant precipitate is further washed twice with 3 ml of THF and dried in vacuo to give a yellow powder which is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 4.62 mg of the title compound as a colorless flocculent material.

reactant | 2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate | 20.4 mg | FC(S(=O)(=O)OCCO[Si](C)(C)C(C)(C)C)(F)F | C9H19F3O4SSi
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 32.4 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H34N4O6S2
solvent | dichloroethane | 0.5 ml | ClC(C)Cl | C2H4Cl2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-[2-(t-butyldimethylsilyloxy)ethyl]-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2C)CCO[Si](C)(C)C(C)(C)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C36H53N4O7S2Si.CHF3O3S/c1-11-14-45-34(43)31-32(22(3)30-29(23(4)41)33(42)40(30)31)49-27-18-25(39(20-27)35(44)46-15-12-2)17-26-19-38-24(5)37(21-28(38)48-26)13-16-47-50(9,10)36(6,7)8;2-1(3,4)8(5,6)7/h11-12,19,21-23,25,27,29-30,41H,1-2,13-18,20H2,3-10H3;(H,5,6,7)/q+1;/p-1/t22-,23-,25-,27+,29-,30-;/m1./s1
